US04229438
Production of pGlu-Ala-Lys-Ser-Gln-(D)-Ala-Gly-Ser-Asn-OH
In 5 ml of trifluoroacetic acid is dissolved 500 mg of pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Ala-Gly-Ser-Asn-OBut and the solution is allowed to stand at room temperature for 40 minutes. The trifluoroacetic acid is distilled off and the residue is precipitated with ether and recovered by filtration. The powdery product is dissolved in 50 ml of water and the solution is passed through a column of Amberlite IRA-410 (acetate-form) (2×5 cm). The effluent is combined with washings and lyophilized. The powdery lyophilizate is dissolved in a small amount of 0.1 N-acetic acid and put onto a column of Sephadex LH-20 (2.5×125 cm), elution being carried out with 0.1 N-acetic acid. The fractions from 185 ml through 202 ml are pooled and lyophilized. Yield 170 mg (34%); [α]D27 -50.6° (c=0.42, H2O); Rf4 (Avicel)=0.25; amino acid analysis (acid hydrolyzate); Lys, 1.00(1); Asp, 0.96(1); Ser, 1.77(2), Glu, 2.02(2); Gly, 1.04(1); Ala, 1.95(2); average recovery 75%.

reactant | pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Ala-Gly-Ser-Asn-OBut | 500 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C43H72N12O17
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | pGlu-Ala-Lys-Ser-Gln-(D)-Ala-Gly-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C34H56N12O15
